* sw ring-oscillators

.control
destroy all
run
plot I(vmeasure)
plot V(Osc_out) 
rusage
quit
.endc

.ic v(N017)=0.25
.tran 50p 4n 50p uic
*.option method=gear maxord=3

VDD VDD2 0 DC 3

VMEASURE VDD2 VDD dc 0

cvdd vdd 0 1e-18
XX1 N017 N001 VDD 0 invertervs
XX2 N001 N002 VDD 0 inverter
XX3 N002 N003 VDD 0 invertervs
XX4 N003 N004 VDD 0 invertervs2
XX5 N004 N005 VDD 0 invertervs3
XX6 N005 N006 VDD 0 invertervs4
XX7 N006 N007 VDD 0 inverter
XX8 N007 N008 VDD 0 invertervs
XX9 N008 N009 VDD 0 invertervs2
XX10 N009 N010 VDD 0 invertervs3
XX11 N010 N011 VDD 0 invertervs4
XX12 N011 N012 VDD 0 inverter
XX13 N012 N013 VDD 0 invertervs
XX14 N013 N014 VDD 0 invertervs2
XX15 N014 N015 VDD 0 invertervs3
XX16 N015 N016 VDD 0 invertervs4
XX17 N016 N017 VDD 0 inverter

* amplify
XX18 N017 Osc_out VDD 0 invertervs3

.include switch-invs.lib

.end
